US07053117B2
2-Amino-6-chloro-3-cyano-7-methyl-4-phenyl-4H-chromene
7-Methyl-6-chloro-3-cyano-2-imino-4-phenyl-2H-chromene. To a mixture of 4-methyl-5-chloro-2-hydroxybenzophenone (500 mg, 2 mmol) and malononitrile (132 mg, 2 mmol) in ethanol (15 mL) was added piperidine (0.1 mL, 1.0 mmol). The mixture was refluxed for 2 h. The solvent was evaporated and the residue was purified by column chromatography on silica gel with ethyl acetate and hexane (1:2) as eluant, yielding 100 mg (17%) of the title compound.

reactant | 7-Methyl-6-chloro-3-cyano-2-imino-4-phenyl-2H-chromene | CC1=C(C=C2C(=C(C(OC2=C1)=N)C#N)C1=CC=CC=C1)Cl | C17H11ClN2O
reactant | 4-methyl-5-chloro-2-hydroxybenzophenone | 2 mmol, 500 mg | CC1=CC(=C(C(=O)C2=CC=CC=C2)C=C1Cl)O | C14H11ClO2
reactant | malononitrile | 2 mmol, 132 mg | C(CC#N)#N | C3H2N2
reactant | piperidine | 1.0 mmol, 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-Amino-6-chloro-3-cyano-7-methyl-4-phenyl-4H-chromene | 100 mg, 17% | NC=1OC2=CC(=C(C=C2C(C1C#N)C1=CC=CC=C1)Cl)C | C17H13ClN2O
